US08383629B2
A mixture of 3,5-dichloro-2-iodo-benzoic acid (9.0 g, 28 mmol) and SOCl2 (100 mL) was heated to reflux overnight. The solvent was removed to give crude 3,5-dichloro-2-iodobenzoyl chloride (9.4 g, 98%). 1H NMR (CDCl3): 7.64 (m, 2H).

reactant | 3,5-dichloro-2-iodo-benzoic acid | 28 mmol, 9.0 g | ClC=1C(=C(C(=O)O)C=C(C1)Cl)I | C7H3Cl2IO2
reactant | SOCl2 | 100 mL | O=S(Cl)Cl | Cl2OS
product | 3,5-dichloro-2-iodobenzoyl chloride | 9.4 g, 98% | ClC=1C(=C(C(=O)Cl)C=C(C1)Cl)I | C7H2Cl3IO
